* Z:\mnt\design.r\spice\examples\8391A.asc
C1 N021 0 10n
C2 N022 0 3.3n
V1 IN 0 12
R1 N001 N002 6m
R2 IN N011 383K
C3 N004 N001 .1µ
M§Q1 IN N009 N001 N001 BSC067N06LS3
M§Q2 N001 N007 0 0 BSC100N06LS3
L1 N002 N003 2.2µ
R3 N006 OUT 56m
D1 N020 0 LUW-W5AP
C4 N006 0 10µ x2
R4 N011 0 165K
M§Q3 N006 N010 N003 N003 BSC093N04LS
M§Q4 N003 N008 0 0 BSC093N04LS
C5 N003 N005 .1µ
M§Q5 N020 N018 OUT OUT FDS4885C_P
R5 N023 0 59k
R7 N014 0 48.7K
C6 N012 0 4.7µ
R9 N012 N013 100K
C7 N015 0 0.47µ
R10 N019 0 150K
R11 N015 N017 280K
R12 OUT N014 1Meg
R8 N015 N019 50K
R6 0 N016 51K
XU1 N007 N004 N001 N009 N001 N002 IN N012 N011 N016 N019 N015 N017 N006 OUT N015 N013 N021 N014 N022 N023 0 N018 N006 N010 N003 N005 N008 0 LT8391A
R13 N017 0 100K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
.lib LT8391A.sub
.backanno
.end
